US07141596B2
Step 8. Synthesis of 5-[2-bromo-4-(hydroxymethyl)phenyl]-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-3-one 1,1-dioxide
To a solution of 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzyl acetate (10 mg, 0.02 mmol) in acetonitrile (0.5 mL) and methanol (0.5 mL) was added acetyl chloride (2.9 μL, 0.041 mmol) at room temperature. The resulting solution was stirred for 24 h and then the reaction was concentrated. The residue was purified by silica gel chromatography (5%–40% ethyl acetate/hexanes) to afford product as oil (8.0 mg, 87%). 1H NMR (400 MHz, CDCl3): δ 7.74 (m, 1H), 7.36 (m, 2H), 5.54 (dd, J=8.0, 6.3 Hz, 1H), 5.07 (dd, J=16.4, 11.3 Hz, 2H), 4.73 (d, J=5.6 Hz, 2H), 3.66 (dd, J=9.4, 7.4 Hz, 2H), 3.50 (dd, J=17.6, 8.0 Hz, 1H), 3.24 (dd, J=17.6, 6.3 Hz, 1H), 1.82 (t, J=5.6 Hz, 1H), 0.96 (dd, J=9.4, 7.4 Hz, 2H), 0.01 (s, 9H). LCMS found for C16H24BrNO5SSiNa (M+Na)+: m/z=472, 474.

reactant | 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzyl acetate | 0.02 mmol, 10 mg | C(C)(=O)OCC1=CC(=C(C=C1)C1C(C(N(S1(=O)=O)OCC[Si](C)(C)C)=O)C)Br | C18H26BrNO6SSi
reactant | acetyl chloride | 0.041 mmol, 2.9 μL | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | methanol | 0.5 mL | CO | CH4O
product | 5-[2-bromo-4-(hydroxymethyl)phenyl]-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-3-one 1,1-dioxide | 8.0 mg, 87% | BrC1=C(C=CC(=C1)CO)C1C(C(N(S1(=O)=O)OCC[Si](C)(C)C)=O)C | C16H24BrNO5SSi
